US08212041B2
5-Bromo-1-methylpyridin-2(1H)-one (0.100 g, 0.532 mmol) was suspended in dioxane (2 mL) then added 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (0.203 g, 0.798 mmol), PdCl2(dppf)-CH2Cl2Adduct (0.0217 g, 0.0266 mmol) and sodium acetate (0.109 g, 1.33 mmol). The reaction mixture was heated at 120° C. for 5.5 hours then at 130° C. for 3 hours. The reaction mixture was filtered through a pad of Celite, washing with MeOH. The filtrate was concentrated under vacuum. The remaining black residue was then dissolved in dichloromethane and filtered through another pad of Celite, washing well with dichloromethane. The filtrate was concentrated under vacuum and the remaining black residue was further dried under high vacuum to afford 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2(1H)-one as a black solid.

reactant | 5-Bromo-1-methylpyridin-2(1H)-one | 0.532 mmol, 0.100 g | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 0.798 mmol, 0.203 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | sodium acetate | 1.33 mmol, 0.109 g | C(C)(=O)[O-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2(1H)-one | CN1C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C12H18BNO3
